US09085555B2
[3-Chloro-2-fluoro-5-(4-methoxy-piperidin-1-yl)-benzyl]-carbamic acid tert-butyl ester
was prepared according to Scheme C1 (step A) from (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester (250 mg, 0.74 mmol), 1-methoxypiperidine (102 mg, 0.89 mmol), caesium carbonate (337 mg, 1.0 mmol), palladium (II) acetate (8.3 mg, 0.04 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (30 mg, 0.05 mmol). MS (LC-MS): 373.0 [M]+; tR (HPLC conditions c): 4.68 min.

reactant | (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.74 mmol, 250 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)Br)Cl)F)=O | C12H14BrClFNO2
reactant | 1-methoxypiperidine | 0.89 mmol, 102 mg | CON1CCCCC1 | C6H13NO
reactant | caesium carbonate | 1.0 mmol, 337 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.05 mmol, 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | palladium (II) acetate | 0.04 mmol, 8.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [3-Chloro-2-fluoro-5-(4-methoxy-piperidin-1-yl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N1CCC(CC1)OC)Cl)F)=O | C18H26ClFN2O3
